US09284331B2
Step 3: 9-isopropoxy-2-(4-(methoxymethyl)-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one.
Example 142. To a stirred suspension of 9-hydroxy-2-(4-(methoxymethyl)-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one (50 mg, 0.148 mmol) and cesium carbonate (120 mg, 0.369 mmol) in THF (1 mL) and DMF (0.35 mL), isopropyl iodide (55 mg, 0.325 mmol) was added. The mixture was stirred at rt for 17 h and poured onto H2O. The mixture was extracted with DCM and the combined org. layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by by SFC (column: PPU 5 μm, 250×30 mm, 60 A, Princeton; eluent: 5% MeOH/CO2 isocratic run for 20 min; flow 100 mL/min; UV detection at 220 nm). The residue was crystallized from diethyl ether and gave the title compound as white crystals (27 mg). UPLC-MS: MS 381.2 (M+H+); UPLC rt 0.98 min. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.27 (d, J=6.11 Hz, 6 H), 2.80 (t, J=6.11 Hz, 2 H), 3.23 (s, 3 H), 3.82 (br. s., 2 H), 4.22 (br. s., 2 H), 4.27 (s, 2 H), 4.64 (dt, J=12.04, 6.08 Hz, 1 H), 7.14 (d, J=8.07 Hz, 1 H), 7.22 (s, 1 H), 7.31 (t, J=8.19 Hz, 1 H), 7.63 (s, 1 H), 7.66 (d, J=7.82 Hz, 1 H), 8.20 (s, 1 H).

reactant | 9-hydroxy-2-(4-(methoxymethyl)-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 0.148 mmol, 50 mg | OC1=C2CCN3C(C2=CC=C1)=CC(=NCC3=O)N3C=NC(=C3)COC | C18H18N4O3
reactant | cesium carbonate | 0.369 mmol, 120 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | isopropyl iodide | 0.325 mmol, 55 mg | C(C)(C)I | C3H7I
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.35 mL | CN(C)C=O | C3H7NO
product | 9-isopropoxy-2-(4-(methoxymethyl)-1H-imidazol-1-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 27 mg | C(C)(C)OC1=C2CCN3C(C2=CC=C1)=CC(=NCC3=O)N3C=NC(=C3)COC | C21H24N4O3
